US05885967
B) Preparation of Cbz-D-hPro-N(Me)Gly-OEt
To a stirring solution of Cbz-D-hPro-OH (6.0 g, 22.8 mmol), sarcosine ethyl ester hydrochloride (4.38 g, 28.5 mmol), 1-hydroxybenzotriazole (3.08 g, 22.8 mmol), and N,N-diisopropylethylamine (11.9 mL, 68.4 mmol) in dichloromethane (200 mL) was added 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (5.46 g, 28.5 mmol). After stirring for 12 hours, the solvent was removed in vacuo and the residue was dissolved in ethyl acetate (500 mL), washed twice with 1N citric acid (200 mL), twice with saturated aqueous NaHCO3, and twice with a saturated aqueous sodium chloride solution. The organic phase was then dried with MgSO4, filtered, and concentrated in vacuo. The residue was chromatographed over silica gel, eluting with a step gradient of hexanes through 50% ethyl acetate/hexanes. Fractions containing product (based on TLC) were combined and concentrated to give 6.62 g (80%) of a colorless oil.

reactant | Cbz-D-hPro-OH | 22.8 mmol, 6.0 g | N1([C@@H](C(=O)O)CCCC1)C(=O)OCC1=CC=CC=C1 | C14H17NO4
reactant | sarcosine ethyl ester hydrochloride | 28.5 mmol, 4.38 g | Cl.C(C)OC(CNC)=O
reactant | 1-hydroxybenzotriazole | 22.8 mmol, 3.08 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N,N-diisopropylethylamine | 68.4 mmol, 11.9 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 28.5 mmol, 5.46 g | Cl.CN(CCCN=C=NCC)C
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
product | Cbz-D-hPro-N(Me)Gly-OEt | 6.62 g, 80% | N1([C@@H](C(=O)N(CC(=O)OCC)C)CCCC1)C(=O)OCC1=CC=CC=C1 | C19H26N2O5
